US04476131
A. dl-7-Acetoxy-6-(2-hydroxyethyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-lH-pyrido[1,2-a]quinoline
A solution of 4.09 g. (0.01 mole) dl-6-(2-hydroxyethyl)-7-hydroxy-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline in 60 ml. methylene chloride containing 1.01 g. (0.01 mole) triethylamine is cooled to 0° C. while stirring in a nitrogen atmosphere. To this is added a solution of 1.22 g. (0.01 mole) 4-dimethylaminopyridine in 5 ml. of methylene chloride followed by 1.02 g. (0.01 mole) acetic anhydride. After stirring at 0°-5° C. for one hour, the mixture is allowed to warm to room temperature, extracted with methylene chloride and the extracts washed with sodium bicarbonate. After drying over anhydrous magnesium sulfate and evaporation of solvent, the desired product is obtained. It can be purified by column chromatography on silica gel if desired.

reactant | dl-6 (2-hydroxyethyl)-7-hydroxy-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline | 0.01 mole | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.OCCC1CCCC2N1C1=CC(=CC(=C1CC2)O)OC(C)CCCC2=CC=CC=C2
reactant | triethylamine | 0.01 mole | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.01 mole | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.01 mole | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.01 g | C(Cl)Cl | CH2Cl2
product | 7-Acetoxy-6-(2-hydroxyethyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-lH-pyrido[1,2-a]quinoline | C(C)(=O)OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)CCCC3)CCO | C28H37NO4
